US09382254B2
Step (iv): 5-(2-Fluoro-4-trifluoromethyl-benzenesulfonyl)-2-(2-hydroxy-2-methyl-propionylamino)-thiophene-3-carboxylic acid amide
The acetic acid 1-[3-carbamoyl-5-(2-fluoro-4-trifluoromethyl-benzenesulfonyl)-thiophen-2-ylcarbamoyl]-1-methyl-ethyl ester (1.24 g, 2.5 mmol) is dissolved in 1,4-dioxane (35 mL) and an aqueous solution of 6 M HCl (25 mL). This mixture is stirred at 60° C. overnight, after which the mixture is evaporated. Purification by silica chromatography (EtOAc/hexane; 1:1) affords the desired compound.

reactant | acetic acid 1-[3-carbamoyl-5-(2-fluoro-4-trifluoromethyl-benzenesulfonyl)-thiophen-2-ylcarbamoyl]-1-methyl-ethyl ester | 2.5 mmol, 1.24 g | C(N)(=O)C1=C(SC(=C1)S(=O)(=O)C1=C(C=C(C=C1)C(F)(F)F)F)NC(=O)C(C)(C)OC(C)=O | C18H16F4N2O6S2
reactant | HCl | 6 M, 25 mL | Cl | ClH
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | 5-(2-Fluoro-4-trifluoromethyl-benzenesulfonyl)-2-(2-hydroxy-2-methyl-propionylamino)-thiophene-3-carboxylic acid amide | FC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)C1=CC(=C(S1)NC(C(C)(C)O)=O)C(=O)N | C16H14F4N2O5S2
